US03957997
Acetylacetone (9.0 g., 0.09 moles) and ethylurea (7.13 g., 0.081 moles) are dissolved in 30 ml. ethanol. The solution is cooled in an ice-water bath while 30 g. of cold concentrated sulfuric acid is added. The resulting yellow solution is stored at room temperature for 10 days and diluted with a large volume of ether. The ether-ethanol mixture is decanted from the thick syrupy residue which is washed with additional fresh ether. The residue is made basic with 2.5 N sodium hydroxide and extracted throughly with methylene chloride. The organic extracts are dried over sodium sulfate, treated with charcoal, filtered, and evaporated under vacuum affording 1-ethyl-4,6-dimethyl-2(1H)-pyrimidinone as a tan solid (7.6 g., 62%).

reactant | Acetylacetone | 0.09 moles, 9.0 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | ethylurea | 0.081 moles, 7.13 g | C(C)NC(=O)N | C3H8N2O
reactant | ethanol | C(C)O | C2H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
product | 1-ethyl-4,6-dimethyl-2(1H)-pyrimidinone | C(C)N1C(N=C(C=C1C)C)=O | C8H12N2O
